US09226923B2
tert-Butyl 6-hydroxy-2-azaspiro[3.3]heptane-2-carboxylate (505 mg, 2.37 mmol) was dissolved in DCM (6.0 mL). The solution was cooled to 0° C. with an external ice-bath. Et3N (330 μL, 2.37 mmol) and DMAP (3.0 mg, 0.0237 mmol) were added. Methanesulfonyl chloride (184 μL, 2.37 mmol) was then added dropwise by syringe. The solution was stirred at 0° C. for 2.0 hrs, was then allowed to warm to room temperature and stirred at room temperature for 18 hrs. A saturated solution of NH4Cl (20 mL) was added and stirred at room temperature for 10 min. The layers were separated. The aqueous phase was extracted with DCM (3×30 mL). The combined organic phase was dried over anhydrous Na2SO4, concentrated by evaporation in vacuo to afford tert-butyl 6-((methylsulfonyl)oxy)-2-azaspiro[3.3]heptane-2-carboxylate (684 mg, 99%) as a white solid.

reactant | tert-Butyl 6-hydroxy-2-azaspiro[3.3]heptane-2-carboxylate | 2.37 mmol, 505 mg | OC1CC2(CN(C2)C(=O)OC(C)(C)C)C1 | C11H19NO3
reactant | Et3N | 2.37 mmol, 330 μL | CCN(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | 2.37 mmol, 184 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | NH4Cl | 20 mL | [NH4+].[Cl-]
solvent | DCM | 6.0 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.0237 mmol, 3.0 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | tert-butyl 6-((methylsulfonyl)oxy)-2-azaspiro[3.3]heptane-2-carboxylate | 684 mg, 99% | CS(=O)(=O)OC1CC2(CN(C2)C(=O)OC(C)(C)C)C1 | C12H21NO5S
